US07235569B2
To a stirred solution of 4-hydroxy-4-imidazo[1,2-a]pyridin-3-yl-piperidine-1-carboxylic acid tert-butyl ester (2.0 g 6.26 mmol) in CH2Cl2 (100 ml) trifluoro acetic acid (10 ml) was added at room temperature. The reaction mixture was stirred at room temperature for 24 hrs. At the end, the reaction mixture was basified with methanolic ammonia and concentrated to dryness. The residue was directly chromatographed over silica-gel column and eluted with methanol:10% methanolic ammonia. The product, 4-imidazo[1,2-a]pyridin-3-yl-piperidin-4-ol was obtained as yellow oil; Yield; 620 mg (48%); 218 (M+H).

reactant | 4-hydroxy-4-imidazo[1,2-a]pyridin-3-yl-piperidine-1-carboxylic acid tert-butyl ester | 6.26 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)(C1=CN=C2N1C=CC=C2)O | C17H23N3O3
reactant | ammonia | N | H3N
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-imidazo[1,2-a]pyridin-3-yl-piperidin-4-ol | N=1C=C(N2C1C=CC=C2)C2(CCNCC2)O | C12H15N3O
